US04366162
1-[3-(p-Acetyl-o-methoxyphenoxy)-propyl]-4-(p-fluorobenzoyl)-4-hydroxy-piperidine hydrochloride
A stirred mixture of 11.1 g (0.05 mole) of 4-(p-fluorobenzoyl)-4-hydroxy-piperidine, 14.6 g (0.06 mole) of 3-(p-acetyl-o-methoxyphenoxy)-propyl chloride and 25 g of anhydrous sodium carbonate in 350 ml iso-butylacetate was allowed to reflux for 48 h. The mixture was filtered and the filtrate was concentrated under vacuum. The residual oil was converted to the HCl salt. 1-[3-(p-Acetyl-o-methoxyphenoxy)propyl]-4-(p-fluorobenzoyl)-4-hydroxy-piperidine hydrochloride was recrystallised from ethanol. Melting point 160°-162° C. Yield 16.2 g. Said product contained a certain amount of ethanol which can only be removed by extreme means.

reactant | 4-(p-fluorobenzoyl)-4-hydroxy-piperidine | 0.05 mole, 11.1 g | FC1=CC=C(C(=O)C2(CCNCC2)O)C=C1 | C12H14FNO2
reactant | 3-(p-acetyl-o-methoxyphenoxy)-propyl chloride | 0.06 mole, 14.6 g | C(C)(=O)C1=CC(=C(OCCCCl)C=C1)OC | C12H15ClO3
reactant | sodium carbonate | 25 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | iso-butylacetate | 350 ml | C(C(C)C)OC(C)=O | C6H12O2
product | 1-[3-(p-Acetyl-o-methoxyphenoxy)-propyl]-4-(p-fluorobenzoyl)-4-hydroxy-piperidine hydrochloride | Cl.C(C)(=O)C1=CC(=C(OCCCN2CCC(CC2)(O)C(C2=CC=C(C=C2)F)=O)C=C1)OC | InChI=1S/C24H28FNO5.ClH/c1-17(27)19-6-9-21(22(16-19)30-2)31-15-3-12-26-13-10-24(29,11-14-26)23(28)18-4-7-20(25)8-5-18;/h4-9,16,29H,3,10-15H2,1-2H3;1H
